US06448281B1
4-{N′-[1-(1-Cyclohexyl-2-furan-3-yl-1H-benzimidazol-5-yl)-methanoyl]-hydrazinocarbonyl}-benzoic Acid (Entry 1302, Table 1)
1-Cyclohexyl-2-furan-3-yl-1H-benzoimidazole-5-carboxylic acid hydrazide (0.022 g, 0.068 mmol) and methyl-4-chlorocarbonylbenzoate (0.013 g, 0.068 mmol) were stirred in DMF (1 mL) in the presence of DIEA (0.018 g, 0.14 mmol) for 2 h. An aqueous solution of NaOH (2.5 N, 0.22 mL, 0.55 mmol) was then added and the mixture was stirred for 2 h at room temperature. The reaction mixture was acidified by the addition of AcOH and purified by reversed phase C18 preparative HPLC to give the title compound of example 143.

reactant | 1-Cyclohexyl-2-furan-3-yl-1H-benzoimidazole-5-carboxylic acid hydrazide | 0.068 mmol, 0.022 g | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)C(=O)NN)C2=COC=C2 | C18H20N4O2
reactant | methyl-4-chlorocarbonylbenzoate | 0.068 mmol, 0.013 g | COC(C1=CC=C(C=C1)C(=O)Cl)=O | C9H7ClO3
reactant | DIEA | 0.14 mmol, 0.018 g | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 0.55 mmol, 2.5 N, 0.22 mL | [OH-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | AcOH | CC(=O)O | C2H4O2
product | 4-{N′-[1-(1-Cyclohexyl-2-furan-3-yl-1H-benzimidazol-5-yl)-methanoyl]-hydrazinocarbonyl}-benzoic Acid | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)C(=O)NNC(=O)C2=CC=C(C(=O)O)C=C2)C2=COC=C2 | C26H24N4O5
